US08791146B2
[2-(4-Chlorophenyl)-1,3-oxazol-4-yl]methanol
6 g (26.307 mmol) of 4-(chloromethyl)-2-(4-chlorophenyl)-1,3-oxazole were heated under reflux in 526 ml (52.613 mmol) of 0.1 N aqueous sodium hydroxide solution for 3 h. The mixture was then cooled to room temperature, and the precipitated solid was filtered off, washed with 0.1N aqueous sodium hydroxide solution and dried under high vacuum. This gave 4.79 g (85% of theory) of the target compound.

reactant | 4-(chloromethyl)-2-(4-chlorophenyl)-1,3-oxazole | 26.307 mmol, 6 g | ClCC=1N=C(OC1)C1=CC=C(C=C1)Cl | C10H7Cl2NO
reactant | sodium hydroxide | 52.613 mmol, 0.1 N, 526 ml | [OH-].[Na+]
product | [2-(4-Chlorophenyl)-1,3-oxazol-4-yl]methanol | ClC1=CC=C(C=C1)C=1OC=C(N1)CO | C10H8ClNO2
